US07405231B2
viii) 4-[4-(4-Imidazol-1-yl-butyl)-phenoxymethyl]-2-[2-(4-trifluoromethane-sulfinyl-phenyl)-vinyl]-oxazole
13.0 mg (0.50 mmol) 95% sodium hydride were given to a solution of 108 mg (0.50 mmol) 4-(4-Imidazol-1-yl-butyl)-phenol in 4.0 ml DMF and stirred for 15 min. 168 mg (0.50 mmol) 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole were added and stirring continued overnight. After addition of 10 ml water the resulting precipitate was washed with water, 10 ml methanol/water 1:1 and with diethyl ether. The residue was purified by chromatography on silica gel (eluent: ethyl acetate/methanol 9:1) to yield 167 mg colorless powder that was further purified by HPLC-MS to give 75 mg (29%) colorless powder.

reactant | sodium hydride | 0.50 mmol, 13.0 mg | [H-].[Na+]
reactant | 4-(4-Imidazol-1-yl-butyl)-phenol | 0.50 mmol, 108 mg | N1(C=NC=C1)CCCCC1=CC=C(C=C1)O | C13H16N2O
reactant | 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 168 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NO2S
reactant | water | 10 ml | O | H2O
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 4-[4-(4-Imidazol-1-yl-butyl)-phenoxymethyl]-2-[2-(4-trifluoromethane-sulfinyl-phenyl)-vinyl]-oxazole | 167 mg | N1(C=NC=C1)CCCCC1=CC=C(OCC=2N=C(OC2)C=CC2=CC=C(C=C2)S(=O)C(F)(F)F)C=C1 | C26H24F3N3O3S
